US05192766
Ethyl (E)-4-ethoxy-3-methoxycinnamate
Following a procedure similar to that described in Preparation 116, but using 5.83 g of ethyl (E)-4-hydroxy-3-methoxycinnamate and 5.61 g of ethyl iodide, 5.55 g of the title compound were obtained as a solid material.

reactant | ethyl (E)-4-hydroxy-3-methoxycinnamate | 5.83 g | OC1=C(C=C(/C=C/C(=O)OCC)C=C1)OC | C12H14O4
reactant | ethyl iodide | 5.61 g | C(C)I | C2H5I
product | Ethyl (E)-4-ethoxy-3-methoxycinnamate | 5.55 g | C(C)OC1=C(C=C(/C=C/C(=O)OCC)C=C1)OC | C14H18O4
